US06265411B1
7-Benzyloxy-3-methylthiooxindole (610 mg, 2.1 mmol), (EP 8226), was dissolved in hot ethanol (60 ml). The mixture was allowed to cool and Rainey Nickel (40 ml volume, prewashed with ethanol) was added and the mixture was stirred at ambient temperature for 1.5 hours. The insolubles were removed by filtration and the filter pad was thoroughly washed with ethanol. The solvent was removed from the filtrate by evaporation and the residue was purified by column chromatography eluting with ethyl acetate/petroleum ether (40/60) to give 7-benzyloxyoxindole (395 mg, 71%).

reactant | 7-Benzyloxy-3-methylthiooxindole | 2.1 mmol, 610 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C(C(NC12)=S)C | C16H15NOS
reactant | ethanol | 60 ml | C(C)O | C2H6O
catalyst | Nickel | 40 ml | [Ni] | Ni
product | 7-benzyloxyoxindole | 395 mg, 71% | C(C1=CC=CC=C1)OC=1C=CC=C2CC(NC12)=O | C15H13NO2
